US04443365
A solution of 7-acetylthio-2-propylheptanoic acid (0.8 g) in 5 N methanolic ammonia (50 ml) was stirred for 2 hours at ambient temperature in an argon atmosphere and concentrated to dryness under reduced pressure. The residue was dissolved in a small amount of a mixture of water and methanol and passed through a column of ion-exchange resin (Dowex 50W, H+ type). The eluate with a mixture of water and methanol was concentrated to dryness under reduced pressure to give semisolid of 7-mercapto-2-propylheptanoic acid (0.4 g).

reactant | 7-acetylthio-2-propylheptanoic acid | 0.8 g | C(C)(=O)SCCCCCC(C(=O)O)CCC | C12H22O3S
solvent | ammonia | 5 N, 50 ml | N | H3N
product | 7-mercapto-2-propylheptanoic acid | 0.4 g | SCCCCCC(C(=O)O)CCC | C10H20O2S
